US07465815B2
(cis)-3-(4-Isopropylphenyl)-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran
Using 3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran obtained in Reference Example 347, the title compound was synthesized in the same manner as in Reference Example 144. Yield 63%. Melting point: 79-80° C. (methanol).

reactant | 3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran | C(C)(C)C1=CC=C(C=C1)C1=C(OC2=C1C(=CC(=C2C)C)C)C | C21H24O
solvent | methanol | CO | CH4O
product | (cis)-3-(4-Isopropylphenyl)-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran | Yield 63% | C(C)(C)C1=CC=C(C=C1)[C@@H]1[C@@H](OC2=C1C(=CC(=C2C)C)C)C | C21H26O
